US07384905B2
The pyridine of the invention, that is 2-(2,4-dimethylcyclohexyl)pyridine, may be synthesised by a Diels-Alder reaction between 2-vinylpyridine and 2-methyl-1,3-pentadiene to produce 2-(2,4-dimethylcyclohex-3-en-1-yl)pyridine, which is then subjected to a hydrogenation reaction to give 2-(2,4-dimethylcyclohexyl)pyridine. The reaction may be shown schematically as follows:

reactant | 2-(2,4-dimethylcyclohexyl)pyridine | CC1C(CCC(C1)C)C1=NC=CC=C1 | C13H19N
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | 2-methyl-1,3-pentadiene | CC(=C)C=CC | C6H10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2,4-dimethylcyclohex-3-en-1-yl)pyridine | CC1C(CCC(=C1)C)C1=NC=CC=C1 | C13H17N
